US06956050B2
STEP 1. 2-chloro-N-{[(2-{4-[4-phenyl-2-(trifluoromethyl)-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from phenyl 2-{4-[4-phenyl-2-(trifluoromethyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate and 2-chlorobenzenesulfonamide. MS (ESI) m/z 549 [M+H]+, 547 [M−H]−, 1H-NMR (CDCl3) δ 2.86 (2H, t, J=7.3 Hz), 3.48-3.55 (2H, m), 6.58 (1H, br), 7.25-7.28 (1H, m), 7.31-7.36 (3H, m), 7.25-7.28 (1H, m), 7.39-7.47 (4H, m), 7.58-7.61 (2H, m), 7.82 (2H, dd, J=8.4, 1.4 Hz), 8.00 (2H, d, J=7.5 Hz).

reactant | phenyl 2-{4-[4-phenyl-2-(trifluoromethyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate | C1(=CC=CC=C1)C=1N=C(N(C1)C1=CC=C(C=C1)CCNC(OC1=CC=CC=C1)=O)C(F)(F)F | C25H20F3N3O2
reactant | 2-chlorobenzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
product | 2-chloro-N-{[(2-{4-[4-phenyl-2-(trifluoromethyl)-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)C(F)(F)F | C25H20ClF3N4O3S
